US08207164B2
l) [5-(3-Amino-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester
A solution of [5-(3-azido-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester (1.71 g, 4.65 mmol) in 22 ml ethanol and 12 ml THF was hydrogenated with Pd/C (10%) (3 hrs, r.t.) The mixture was filtered through Celite, and the filtrate was evaporated and the residue was purified by chromatography on silica gel (cyclohexane/ethyl acetate) to yield the title compound as colorless solid.

reactant | [5-(3-azido-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | 4.65 mmol, 1.71 g | C(C)(C)(C)OC(NC=1COCC(N1)(C(F)F)C1=CC(=CC=C1)N=[N+]=[N-])=O | C16H19F2N5O3
solvent | ethanol | 22 ml | C(C)O | C2H6O
solvent | THF | 12 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | [5-(3-Amino-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COCC(N1)(C(F)F)C1=CC(=CC=C1)N)=O | C16H21F2N3O3
